US06218404B1
Preparation of 3-Benzyl-1-(5-hydroxypentyl)piperidine
To a solution of 4-[(3-benzyl)-1-piperidinyl]valeric acid ethyl ester (0.96 g, 3.31 mmol) in THF dry (20 mL) were added portionwise LiAlH4 (0.38 g, 9.95 mmol). The resulting mixture was stirred at 25° C. for 2 hrs then diluted with NH4Cl (sat. solution, 50 mL) and extracted with ethyl acetate (3×30 mL). The collected organic phases were washed with brine (50 mL), dried and concentrated in vacuum. The crude compound was purified by filtration on silica gel (260-400 mesh) using CH2Cl2/MeOH, 8/2 as solvent to give the title compound as an oil (0.70 g, 81). 1H-NMR (CDCl3): 0.8-1.0 (m, 1H); 1.3-1.45 (m, 2H); 1.45-1.75 (m, 9H); 1.8-2.0 (m, 2H); 2.25-2.4 (m, 2H); 2.4-2.6 (m, 2H); 2.78-2.93 (m, 2H); 3.607 (t, J=6.3, 2H); 7.136 (d, J=7.2, 2H); 7.186 (d, J=6.9, 1H); 7.264 (t, J=7.2, 2H).

reactant | 4-[(3-benzyl)-1-piperidinyl]valeric acid ethyl ester | 3.31 mmol, 0.96 g | C(C)OC(CCC(C)N1CC(CCC1)CC1=CC=CC=C1)=O | C19H29NO2
reactant | LiAlH4 | 9.95 mmol, 0.38 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | C1CCOC1 | C4H8O
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
product | 3-Benzyl-1-(5-hydroxypentyl)piperidine | 0.70 g | C(C1=CC=CC=C1)C1CN(CCC1)CCCCCO | C17H27NO
